data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_273128_0,[C:1]1([C:5]([C:3]([H:16])([H:17])[H:18])=[C:4]([N:6]([H:12])[H:13])[N:7]([H:10])[H:11])([H:9])[C:2]([H:14])([H:15])[O:8]1>>[C:1]([C:2]([H:9])([H:14])[H:15])([C:5]([C:3]([H:16])([H:17])[H:18])=[C:4]([N:6]([H:12])[H:13])[N:7]([H:10])[H:11])=[O:8],57.16462249999097
MR_72650_0,[C:1](/[C:3](=[C:2]([O:7][H:9])\[N:8]=[C:6](/[N:5]([H:12])[H:13])[H:14])[N:4]([H:10])[H:11])([H:15])([H:16])[H:17]>>[C:1]([C:3]1([N:4]([H:10])[H:11])[C:2]([O:7][H:9])=[N:8][C:6]1([N:5]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17],43.66395999997707
MR_416208_1,[C:1](/[C:3]([N:5]([H:9])[H:10])=[N:8]\[C:4]([C:2]([H:17])([H:18])[H:19])=[C:7](/[N:6]([H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:3]1([N:5]([H:9])[H:10])[C:7]([N:6]([H:11])[H:12])([H:13])[C:4]([C:2]([H:17])([H:18])[H:19])=[N:8]1)([H:14])([H:15])[H:16],48.64568249999067
MR_580241_1,[C:1]1([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[C:2]([C:3]([H:14])([H:15])[H:16])([N:6]([H:12])[H:13])[O:7]1>>[C:1](\[C:2]([C:3]([H:14])([H:15])[H:16])([N:6]([H:12])[H:13])[O:7][H:10])([N:4]([H:8])[H:9])=[N:5]/[H:11],7.480427500018436
MR_14670_1,[C:1]1([C:2]([H:12])([H:13])[H:14])([N:5]([H:10])[H:11])[C:3]([N:4]([H:8])[H:9])([H:7])[O:6]1>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([N:4]([H:8])[H:9])=[O:6])([N:5]([H:10])[H:11])[H:7],23.793544999994083
MR_148253_0,[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([N:4]([C:5]([N:7]([H:12])[H:13])=[O:8])[N:6]([H:10])[H:11])[H:9]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([O:8]/[C:5](=[N:4]/[N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[H:9],70.12187000002143
MR_432916_0,[C:1]([C:3](/[C:2]([O:7][H:9])=[N:8]\[N:4]([H:10])[H:11])=[C:6](\[N:5]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:3]1=[C:2]([O:7][H:9])[N:8]([N:4]([H:10])[H:11])[C:6]1([N:5]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17],42.37256499999162
MR_77816_0,[C:1]1([O:4][H:6])([H:7])[C:3]([N:2]([H:8])[H:9])([H:10])[O:5]1>>[C:1]([C:3]([N:2]([H:8])[H:9])([O:5][H:6])[H:10])(=[O:4])[H:7],35.02391249999718
MR_30810_0,[C:1]([C:5]([C:3]([H:16])([H:17])[H:18])[C:4]([C:2]([H:13])([H:14])[H:15])[N:6]([H:9])[H:10])([O:7][H:8])([H:11])[H:12]>>[C:1](=[C:5](\[C:3]([H:16])([H:17])[H:18])[C@@:4]([C:2]([H:13])([H:14])[H:15])([N:6]([H:9])[H:10])[H:12])(\[O:7][H:8])[H:11],69.4372675000021
MR_103325_1,[C:1]([C:3](=[C:4]([H:14])[H:15])[O:6][C:2]([H:11])([H:12])[H:13])([O:5][O:7][H:8])([H:9])[H:10]>>[C:1]([O:5][C:3](=[C:4]([H:14])[H:15])[O:6][C:2]([H:11])([H:12])[H:13])([O:7][H:8])([H:9])[H:10],67.13559749999916
MR_259837_0,[C:1]([N:2]([H:7])[H:8])(/[C:4](=[C:5](/[N:3]([H:9])[H:10])[H:12])[H:11])=[O:6]>>[C:1]1([N:2]([H:7])[H:8])=[C:4]([H:11])[C@:5]([N:3]([H:9])[H:10])([H:12])[O:6]1,43.59556250000708
MR_42841_1,[C:1]([C:3]([O:5][C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])=[O:6])([H:8])([H:9])[H:10]>>[C:1]([C:3](=[O:5])[O:6][C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])([H:8])([H:9])[H:10],18.947989999993386
MR_118367_0,[C:1]1([O:6][H:8])([H:9])[C:2]([C:4]([N:5]([H:11])[H:12])=[O:7])([H:10])[C:3]1([H:13])[H:14]>>[C:1]([C:2]1([H:10])[C:3]([H:13])([H:14])[C:4]1([N:5]([H:11])[H:12])[O:7][H:8])(=[O:6])[H:9],50.009239999972266
MR_518823_0,[C:1]([N:4](/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]/[C:2]([H:13])([H:14])[H:15])[C:6](=[O:8])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:4]=[C:5](\[C:3]([H:16])([H:17])[H:18])[N:7]([C:2]([H:13])([H:14])[H:15])[C:6](=[O:8])[H:9])([H:10])([H:11])[H:12],33.6239599999648
MR_428948_1,[C:1]([N:4]([N:5]([C:2]([H:16])([H:17])[H:18])[H:10])[H:9])(/[C:6]([C:3]([H:19])([H:20])[H:21])=[C:8](/[N:7]([H:11])[H:12])[H:15])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:4]([H:9])[C:6]1([C:3]([H:19])([H:20])[H:21])[C:8]([N:5]([C:2]([H:16])([H:17])[H:18])[H:10])([N:7]([H:11])[H:12])[H:15],70.13818500001591
MR_332772_2,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4](=[O:7])[H:10])=[O:6])([O:5][H:8])[H:9]>>[C:1](=[C:3](\[C:2]([H:11])([H:12])[H:13])[O:6][C:4](=[O:7])[H:10])(\[O:5][H:8])[H:9],62.85604750003188
MR_121121_1,[C:1]1([O:5][H:7])([H:8])[C:4]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:6]1>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([C:2]([H:9])([H:10])[H:11])=[O:6])([O:5][H:7])[H:8],49.58128499998267
MR_239684_0,[C:1]1([H:13])([H:14])[C:4]([N:6]([H:9])[H:10])=[C:5]([N:7]([H:11])[H:12])[C:3]([H:17])([H:18])[C:2]([H:15])([H:16])[O:8]1>>[C:1]1([H:13])([H:14])[C:4]([C:5]2([N:7]([H:11])[H:12])[C:2]([H:15])([H:16])[C:3]2([H:17])[H:18])([N:6]([H:9])[H:10])[O:8]1,71.12837999997708
MR_397526_2,[C@:1]([N:2]([H:10])[H:11])(/[C:3](=[N:7]\[O:6][H:8])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9]>>[C@:1]1([N:2]([H:10])[H:11])([H:9])[C@:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:12])[N:7]1[O:6][H:8],59.13748250000367
MR_591617_0,[C:1]1([C:2]([H:11])([H:12])[H:16])([C:3]([H:13])([H:14])[H:15])[C:6](/[C:7]([C:4]([H:17])([H:18])[H:19])=[C:8](\[C:5]([H:20])([H:21])[H:22])[H:10])=[N:9]1>>[C:1]([C:2]([H:11])([H:12])[H:16])([C:3]([H:13])([H:14])[H:15])=[N:9][C:6]1=[C:7]([C:4]([H:17])([H:18])[H:19])[C:8]1([C:5]([H:20])([H:21])[H:22])[H:10],72.687090000001
